US07642264B2
2-Chloro-4-(4-chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(4-chloro-3-methyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (9.07 g, 31.4 mmol) and phosphoryl chloride (100 mL) according to the general procedure I. Obtained as a white solid (8.68 g, 99%). MS (EI) 306.1 [(M)+]; mp 90° C.

reactant | 4-(4-chloro-3-methyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 31.4 mmol, 9.07 g | ClC1=C(C=C(C=C1)C1=NC(NC(=C1)C(F)(F)F)=O)C | C12H8ClF3N2O
reactant | phosphoryl chloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(4-chloro-3-methyl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)C)C(F)(F)F | C12H7Cl2F3N2
